US08895571B2
Step E: 2-[(2S)-2-(3-bromo-7-oxo-5,7-dihydro-6H-pyrrolo[3,4-b]pyridin-6-yl)-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione
A mixture of methyl 5-bromo-3-(bromomethyl)pyridine-2-carboxylate (500.0 mg, 1.618 mmol), 2-[(2S)-2-amino-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione (482.8 mg, 1.618 mmol) and N,N-diisopropylethylamine (0.564 mL, 3.24 mmol) in 1-butanol (10.0 mL) was stirred at 120° C. for 2 h under microwave. Purification by combi-flash chromatography gave 0.48 g (61% yield) of the desired product. LC-MS found: 494.1 (M+H)+.

reactant | methyl 5-bromo-3-(bromomethyl)pyridine-2-carboxylate | 1.618 mmol, 500.0 mg | BrC=1C=C(C(=NC1)C(=O)OC)CBr | C8H7Br2NO2
reactant | 2-[(2S)-2-amino-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione | 1.618 mmol, 482.8 mg | N[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1=CC(=CC=C1)F | C17H15FN2O2
reactant | N,N-diisopropylethylamine | 3.24 mmol, 0.564 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-butanol | 10.0 mL | C(CCC)O | C4H10O
product | 2-[(2S)-2-(3-bromo-7-oxo-5,7-dihydro-6H-pyrrolo[3,4-b]pyridin-6-yl)-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione | 0.48 g, 61% yield | BrC=1C=C2C(=NC1)C(N(C2)[C@H](CN2C(C1=CC=CC=C1C2=O)=O)CC2=CC(=CC=C2)F)=O | C24H17BrFN3O3
